US08470841B2
36c 3-[4-(6-Benzyloxypyridin-3-yloxy)phenyl]-1-methylprop-2-ynylamine
2-{3-[4-(6-Benzyloxypyridin-3-yloxy)phenyl]-1-methylprop-2-ynyl}isoindole-1,3-dione (2.0 g, 2.32 mmol) and hydrazine hydrate (0.57 ml, 11.82 mmol) were stirred in 40 ml of ethanol at 100° C. for 2 h. The reaction mixture was concentrated, heated with ethyl acetate and filtered hot. The filtrate was concentrated. Yield: 800 mg (100%), M+H+: 345.15.

reactant | 2-{3-[4-(6-Benzyloxypyridin-3-yloxy)phenyl]-1-methylprop-2-ynyl}isoindole-1,3-dione | 2.32 mmol, 2.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=N1)OC1=CC=C(C=C1)C#CC(C)N1C(C2=CC=CC=C2C1=O)=O | C30H22N2O4
reactant | hydrazine hydrate | 11.82 mmol, 0.57 ml | O.NN
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-[4-(6-Benzyloxypyridin-3-yloxy)phenyl]-1-methylprop-2-ynylamine | C(C1=CC=CC=C1)OC1=CC=C(C=N1)OC1=CC=C(C=C1)C#CC(C)N | C22H20N2O2
